US05623049
N-Benzyloxycarbonyl-4-methanesulphonyloxy-L-cis-proline methyl ester
1.59 g (5.7 mmol) of N-benzyloxycarbonyl-4-hydroxy-L-cis-proline methyl ester are dissolved in 50 ml of abs. pyridine and cooled to 0° C. 0.6 ml (7.7 mmol) of methanesulphonyl chloride is added dropwise at 0° C., and the mixture is subsequently stirred at room temperature for 3 hours. The mixture is then concentrated and 100 ml of methylene chloride are added to the residue, and this latter mixture is then extracted 2 x by shaking with a 10% solution of NaHCO3, dried over sodium sulphate and concentrated once again, with the residue being subsequently distilled repeatedly with toluene. Yield: quantitative Rf : 0.33, eluent, toluene/EtOH (10:1)

reactant | N-benzyloxycarbonyl-4-hydroxy-L-cis-proline methyl ester | 5.7 mmol, 1.59 g | COC([C@H]1N(C[C@H](C1)O)C(=O)OCC1=CC=CC=C1)=O | C14H17NO5
reactant | methanesulphonyl chloride | 7.7 mmol, 0.6 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-Benzyloxycarbonyl-4-methanesulphonyloxy-L-cis-proline methyl ester | Yield: quantitative | COC([C@H]1N(C[C@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=CC=C1)=O | C15H19NO7S
